US08183380B2
[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-carbamic acid methyl ester
To a solution of (R)—N2-indan-1-yl-quinoline-2,6-diamine (1.2 g, 4.36 mmol) and pyridine (0.35 mL, 4.36 mmol) in dichloromethane (25 mL) at 0° C. was added 4-nitrophenyl chloroformate (878 mg, 4.6 mmol) and the mixture was stirred at 23° C. for 2 h resulting in a yellow suspension. Added tetrahydrofuran, filtered the solid off, dissolved in dichloromethane and methanol, coated on silica gel. Removal of the solvent in vacuum left a brown foam, which after silica gel column chromatography was crystallized from dichloromethane/diethyl ether to give the title compound as a yellow foam (500 mg, 34%); MS: m/e=334.2 (M+H+).

reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | 4.36 mmol, 1.2 g | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
reactant | pyridine | 4.36 mmol, 0.35 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 4.6 mmol, 878 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | [2-((R)-Indan-1-ylamino)-quinolin-6-yl]-carbamic acid methyl ester | 500 mg, 34% | COC(NC=1C=C2C=CC(=NC2=CC1)N[C@@H]1CCC2=CC=CC=C12)=O | C20H19N3O2
